US04929613
2,5-Difluoro-4-(1-methyl-4-piperidinyl)benzoyl chloride hydrochloride.
2.91 g (10 mmoles) of 2,5-difluoro-4-(1-methyl-4-piperidinyl)benzoic acid hydrochloride was refluxed with thionyl chloride and evaporated to afford the title compound.

reactant | 2,5-difluoro-4-(1-methyl-4-piperidinyl)benzoic acid hydrochloride | 10 mmoles, 2.91 g | Cl.FC1=C(C(=O)O)C=C(C(=C1)C1CCN(CC1)C)F
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2,5-Difluoro-4-(1-methyl-4-piperidinyl)benzoyl chloride hydrochloride | Cl.FC1=C(C(=O)Cl)C=C(C(=C1)C1CCN(CC1)C)F | InChI=1S/C13H14ClF2NO.ClH/c1-17-4-2-8(3-5-17)9-6-12(16)10(13(14)18)7-11(9)15;/h6-8H,2-5H2,1H3;1H
